US07700607B2
To a mixture of 60% NaH in mineral oil (0.290 g, 7.27 mmol) in THF (15 mL) at RT in a resealable pressure vessel was added (4-methoxyphenyl)methanol (0.906 ml, 7.27 mmol). After 5 minutes, 3-bromo-2-chloro-4-picoline (1.00 g, 4.84 mmol) was added and the mixture was heated to 75° C. After 1 hr, water was added and the mixture was diluted with EtOAc. After washing with water and brine, the organic fraction was dried with sodium sulfate and purified by silica gel chromatography using 0-30% EtOAc:hexanes to afford 2-(4-methoxybenzyloxy)-3-bromo-4-methylpyridine as a colorless oil. M+H+=308.0.

reactant | NaH | [H-].[Na+]
reactant | (4-methoxyphenyl)methanol | 7.27 mmol, 0.906 ml | COC1=CC=C(C=C1)CO | C8H10O2
reactant | 3-bromo-2-chloro-4-picoline | 4.84 mmol, 1.00 g | BrC=1C(=NC=CC1C)Cl | C6H5BrClN
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-methoxybenzyloxy)-3-bromo-4-methylpyridine | COC1=CC=C(COC2=NC=CC(=C2Br)C)C=C1 | C14H14BrNO2
